US04695575
A mixture of 10.3 parts of 2-amino-N-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]-butyl]benzamide, 3.2 parts of 1,1'-carbonylbis[1H-imidazole] and 180 parts of tetrahydrofuran was stirred and refluxed overnight. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using first a mixture of trichloromethane and methanol saturated with ammonia (97:3 by volume) and then a mixture of trichloromethane and methanol saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanone, yielding 3.8 parts (35.5%) of 3-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione; mp. 187.3° C. (489).

reactant | 2-amino-N-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]-butyl]benzamide | NC1=C(C(=O)NCCCCN2CCC(CC2)CC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C31H36FN5O
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]butyl]-2,4(1H,3H)-quinazolinedione | 35.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCCCN2C(NC1=CC=CC=C1C2=O)=O | C32H34FN5O2
